US07141561B2
(4-Cyclopentyloxyphenyl)-(2,2-dimethoxyethyl)amine
A suspension of 4-cyclopentyloxyphenylamine (8.86 g), bromo-acetaldehyde dimethyl acetal (12.2 g), potassium carbonate (13.8 g) and dimethylformamide (100 ml) was heated at 100° C. for 5 hours. Cooling was followed by filtration and concentration of the filtrate. The residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 4:1). The product with the molecular weight of 265.36 (C15H23NO3); MS (ESI): 266 ([M+H]+), was obtained in this way.

reactant | 4-cyclopentyloxyphenylamine | 8.86 g | C1(CCCC1)OC1=CC=C(C=C1)N | C11H15NO
reactant | bromo-acetaldehyde dimethyl acetal | 12.2 g | COC(CBr)OC | C4H9BrO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (4-Cyclopentyloxyphenyl)-(2,2-dimethoxyethyl)amine | C1(CCCC1)OC1=CC=C(C=C1)NCC(OC)OC | C15H23NO3
